### PR TITLE
[Merged by Bors] - feat: Topological properties of order-connected sets in ℝⁿ

### PR DESCRIPTION
**Pull request by YaelDillies**
Partially forward-port https://github.com/leanprover-community/mathlib/pull/16976

---

- [x] depends on: #11606

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Order/UpperLower.lean [hunk 1]
```diff
@@ -112,8 +123,82 @@ theorem IsLowerSet.mem_interior_of_forall_lt (hs : IsLowerSet s) (hx : x ∈ clo
...
+lemma dist_anti_right : AntitoneOn (dist x) (Iic x) := by
+  simpa only [dist_comm] using dist_anti_left (y := x)
+#align dist_anti_right dist_anti_right
+
+lemma dist_le_dist_of_le (ha : a₂ ≤ a₁) (h₁ : a₁ ≤ b₁) (hb : b₁ ≤ b₂) : dist a₁ b₁ ≤ dist a₂ b₂ :=
+  (dist_mono_right h₁ (h₁.trans hb) hb).trans $
+    dist_anti_left (ha.trans $ h₁.trans hb) (h₁.trans hb) ha
+#align dist_le_dist_of_le dist_le_dist_of_le
+
+protected lemma Bornology.IsBounded.bddBelow : IsBounded s → BddBelow s := by
```
Comment (urkud) [inline Mathlib/Analysis/Normed/Order/UpperLower.lean:162]: You should either introduce a typeclass (and prove instances for `Real`, `Prod`, and `∀ i, X i`) or use `pi` somewhere in the names of all these lemmas.

Also, `Bornology` lemmas should assume `Finite`, not `Fintype`.

Comment (YaelDillies) [reply Mathlib/Analysis/Normed/Order/UpperLower.lean:162]: This used to require `Fintype` because this was a lemma about `Metric.IsBounded`

File: Mathlib/Topology/Order/Bounded.lean [hunk 2]
```diff
@@ -1,40 +0,0 @@
...
-## Tags
-
-bounded, bornology, order, metric
--/
-
-open Set Filter
-
-section Real
-
-lemma Filter.isBounded_le_map_of_bounded_range {ι : Type*} (F : Filter ι) {f : ι → ℝ}
```
Comment (urkud) [inline Mathlib/Topology/Order/Bounded.lean:26]: Why do you delete these lemmas instead of generalizing/deprecating them? I see that they should use `Filter.IsBoundedUnder`, what are other reasons?

File: Mathlib/Analysis/Normed/Order/UpperLower.lean [hunk 3]
```diff
@@ -154,3 +198,63 @@ theorem IsLowerSet.exists_subset_ball (hs : IsLowerSet s) (hx : x ∈ closure s)
...
+-/
+
+protected lemma IsClosed.upperClosure (hs : IsClosed s) (hs' : BddBelow s) :
+    IsClosed (upperClosure s : Set (ι → ℝ)) := by
+  cases nonempty_fintype ι
+  refine' IsSeqClosed.isClosed fun f x hf hx ↦ _
+  choose g hg hgf using hf
+  obtain ⟨a, ha⟩ := hx.bddAbove_range
+  obtain ⟨b, hb, φ, hφ, hbf⟩ := tendsto_subseq_of_bounded (hs'.isBounded_inter bddAbove_Iic) fun n ↦
+    ⟨hg n, (hgf _).trans $ ha $ mem_range_self _⟩
```
Comment (urkud) [inline Mathlib/Analysis/Normed/Order/UpperLower.lean:220]: https://leanprover-community.github.io/contribute/style.html#whitespace-and-delimiters says to use `<|`, not `$`.

File: Mathlib/Analysis/Normed/Order/UpperLower.lean [hunk 4]
```diff
@@ -154,3 +198,63 @@ theorem IsLowerSet.exists_subset_ball (hs : IsLowerSet s) (hx : x ∈ closure s)
...
+
+/-!
+#### Note
+
+The closure and frontier of an antichain might not be antichains. Take for example the union
+of the open segments from `(0, 2)` to `(1, 1)` and from `(2, 1)` to `(3, 0)`. `(1, 1)` and `(2, 1)`
+are comparable and both in the closure/frontier.
+-/
+
+protected lemma IsClosed.upperClosure (hs : IsClosed s) (hs' : BddBelow s) :
```
Comment (urkud) [inline Mathlib/Analysis/Normed/Order/UpperLower.lean:213]: Please add `pi` somewhere in the name (here and below). Also please add a TODO about finding a right generality for this lemma.

File: Mathlib/Topology/Order/Bounded.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Topology/Order/Bounded.lean:26]: They are a simple combination of easier lemmas belonging to different areas, namely `Bornology.IsBounded.bddBelow`/`Bornology.IsBounded.bddAbove` and `isBoundedUnder_of` and some quantifier reshuffle. I did not deprecate them because
* I want to be able to remove the file directly
* I cannot state them using `ℝ` in `Topology.Order.Bornology`
* I don't want to have to think about how I should restate them
* I can't redirect to a single lemma within the deprecation
* They have been added for exactly one use anyway

Writing that message, I have now spent too much time thinking about those two lemmas.

File: Mathlib/Analysis/Normed/Order/UpperLower.lean [hunk 5]
```diff
@@ -20,15 +22,21 @@ set).
 
 We also prove lemmas specific to `ℝⁿ`. Those are helpful to prove that order-connected sets in `ℝⁿ`
 are measurable.
--/
 
+## TODO
+
+Is there a way to generalise `IsClosed.upperClosure_pi`/`IsClosed.lowerClosure_pi` so that they also
+apply to `ℝ`, `ℝ × ℝ`, `EuclideanSpace ι ℝ`? `_pi` has been prepended to their names to disambiguate
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Normed/Order/UpperLower.lean:29]: Did you mean "appended"?

File: Mathlib/Analysis/Normed/Order/UpperLower.lean [hunk 6]
```diff
@@ -154,3 +206,63 @@ theorem IsLowerSet.exists_subset_ball (hs : IsLowerSet s) (hx : x ∈ closure s)
 #align is_lower_set.exists_subset_ball IsLowerSet.exists_subset_ball
 
 end Fintype
+
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Order/UpperLower.lean:209]: What happened to `is_antichain.interior_eq_empty`?

File: Mathlib/Data/Real/NNReal.lean
Comment (eric-wieser) [inline Mathlib/Data/Real/NNReal.lean:1]: If you split the changes in this file to its own PR, I'll merge it immediately (in the interest of removing items from out-of-sync)

File: Mathlib/Analysis/Normed/Order/UpperLower.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Normed/Order/UpperLower.lean:209]: It has already been ported (and generalised) as `IsAntichain.interior_eq_empty`

File: Mathlib/Data/Real/NNReal.lean
Comment (YaelDillies) [reply Mathlib/Data/Real/NNReal.lean:1]: #11606

File: Mathlib/Topology/Order/Bornology.lean [hunk 7]
```diff
@@ -0,0 +1,111 @@
...
+protected lemma BddBelow.isBounded (hs₀ : BddBelow s) (hs₁ : BddAbove s) : IsBounded s :=
+  isBounded_iff_bddBelow_bddAbove.2 ⟨hs₀, hs₁⟩
+#align bdd_below.bounded BddBelow.isBounded
+
+protected lemma BddAbove.isBounded (hs₀ : BddAbove s) (hs₁ : BddBelow s) : IsBounded s :=
+  isBounded_iff_bddBelow_bddAbove.2 ⟨hs₁, hs₀⟩
+#align bdd_above.bounded BddAbove.isBounded
+
+lemma BddBelow.isBounded_inter (hs : BddBelow s) (ht : BddAbove t) : IsBounded (s ∩ t) :=
+  (hs.mono $ inter_subset_left _ _).isBounded $ ht.mono $ inter_subset_right _ _
```
Comment (Ruben-VandeVelde) [inline Mathlib/Topology/Order/Bornology.lean:78]: I think you might have another conflict with yourself on `inter_subset_left`

File: Mathlib/Topology/Order/Bounded.lean (hunk 2 above)
Comment (Ruben-VandeVelde) [reply Mathlib/Topology/Order/Bounded.lean:26]: I think our current policy would lean towards deprecating them

**Review by Ruben-VandeVelde — APPROVED** [review]
Seems pretty straightforward, modulo the removal of `Topology.Order.Bounded`

File: Mathlib/Topology/Order/Bornology.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Topology/Order/Bornology.lean:78]: Well spotted

File: Mathlib/Topology/Order/Bounded.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Topology/Order/Bounded.lean:26]: I have restored `Topology.Order.Bounded`

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

File: Mathlib/Analysis/Normed/Order/UpperLower.lean [hunk 8]
```diff
@@ -112,8 +131,41 @@ theorem IsLowerSet.mem_interior_of_forall_lt (hs : IsLowerSet s) (hx : x ∈ clo
 end Finite
 
 section Fintype
+variable [Fintype ι] {s t : Set (ι → ℝ)} {a₁ a₂ b₁ b₂ x y : ι → ℝ} {δ : ℝ}
+
+-- TODO: Generalise those lemmas so that they also apply to `ℝ` and `EuclideanSpace ι ℝ`
+lemma dist_inf_sup (x y : ι → ℝ) : dist (x ⊓ y) (x ⊔ y) = dist x y := by
```
Comment (fpvandoorn) [inline Mathlib/Analysis/Normed/Order/UpperLower.lean:137]: Should these lemmas also get a `_pi` ending?

**Review by fpvandoorn — COMMENTED** [review]
One more comment. Feel free to merge even if you disagree.

bors d+

File: Mathlib/Analysis/Normed/Order/UpperLower.lean [hunk 9]
```diff
@@ -20,15 +22,21 @@ set).
...
 We also prove lemmas specific to `ℝⁿ`. Those are helpful to prove that order-connected sets in `ℝⁿ`
 are measurable.
--/
 
+## TODO
+
+Is there a way to generalise `IsClosed.upperClosure_pi`/`IsClosed.lowerClosure_pi` so that they also
+apply to `ℝ`, `ℝ × ℝ`, `EuclideanSpace ι ℝ`? `_pi` has been appended to their names to disambiguate
+from the other possible lemmas, but we will want there to be a single set of lemmas for all
+situations.
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Order/UpperLower.lean:31]: This comment shouldn't hold up this PR, but the relevant lemmas could just take a homeomorphism with a pi-type as an explicit argument. It's not a pretty solution, but I think it would work, and I believe we already have the necessary homeomorphisms available.

(On second thought, would it need to be an order isomorphism too? That probably rules out this idea as being useful)

Comment (YaelDillies) [reply Mathlib/Analysis/Normed/Order/UpperLower.lean:31]: Yeah, it would also need to be an order isomorphism. That's the crux. We need a way to say "Order on this type is given by those coordinates", which sounds a lot like the `Inducing`/`Embedding` business in the topology part of the library.

Food for thought, I guess

File: Mathlib/Analysis/Normed/Order/UpperLower.lean (hunk 8 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Normed/Order/UpperLower.lean:137]: Good point

**Comment by YaelDillies** [comment]
bors merge

**Comment by YaelDillies** [comment]
bors merge
